US07569730B2
2-Cyclohexylmethylidenesuccinic acid 1-methyl ester (0.22 g, 1.0 mmol) and each metal complex catalyst (0.005 mmol) were weighed in a Pyrex (registered trade name) test tube for autoclaving and the tube was put into a 50 mL-autoclave together with a stirrer in the tube, and then the atmosphere in the autoclave was substituted with nitrogen. The mixture was added with 2 mL of deoxygenized methanol, and after the atmosphere in the autoclave was sufficiently substituted with hydrogen, and then pressurized with 0.5 MPa of hydrogen, the mixture was stirred at 45° C. for 18 hours. After 18 hours, the atmosphere of the autoclave was returned to ordinary pressure, and the reaction mixture was concentrated in an evaporator. The concentrated residue was added with 5 mL of 2 M aqueous sodium hydroxide for dissolution, and the solution was washed with 5 mL of ethyl acetate. The aqueous layer was separated, and added with diluted hydrochloric acid until pH of the aqueous layer became lower than 2, and the produced oil was extracted with 10 mL of ethyl acetate. The organic layer was concentrated in an evaporator to quantitatively obtain optically active cyclohexylmethylsuccinic acid 1-methyl ester.

reactant | 2-Cyclohexylmethylidenesuccinic acid 1-methyl ester | 1.0 mmol, 0.22 g | COC(C(CC(=O)O)=CC1CCCCC1)=O | C12H18O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 2 mL | CO | CH4O
product | cyclohexylmethylsuccinic acid 1-methyl ester | COC(C(CC(=O)O)CC1CCCCC1)=O | C12H20O4
